US04503063
1-Cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
Acetonitrile (2.25 g, 0.055 mole) was dissolved in dry tetrahydrofuran (100 ml) and the resulting solution was cooled to -70° C. under nitrogen in a acetone/dry ice bath. A solution of n-butyllithium in hexane (39 ml, 1.55 molar, 0.060 mole) was added dropwise over five minutes. After stirring for about 45 minutes at -70° C., 2',4'-dichloro-2-(1H-1,2,4-triazol-1-yl)acetophenone (12.8 g) in dry tetrahydrofuran (100 ml) was added dropwise over a 15 minute period. Stirring was continued at -70° C. for about one hour and then glacial acetic acid (20 ml) in tetrahydrofuran (20 ml) was added dropwise. The cooling bath was then removed. The reaction mixture was allowed to warm to 0° C., quenched in water (400 ml), and solid sodium carbonate was added to raise the pH to 8.0. After extraction with ethyl acetate (3×75 ml), the combined organic extracts were washed with saturated brine (3×50 ml), dried (Na2SO4) and evaporated to a pale yellow solid. This solid was washed well with ethyl ether to give the title compound (6.61 g, 44.5%), identical to the product of Example 1 as confirmed by n.m.r. and i.r. spectroscopy.

reactant | Acetonitrile | 0.055 mole, 2.25 g | C(C)#N | C2H3N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.060 mole, 1.55 molar, 39 ml | CCCCCC | C6H14
reactant | 2',4'-dichloro-2-(1H-1,2,4-triazol-1-yl)acetophenone | 12.8 g | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)=O | C10H7Cl2N3O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-Cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 6.61 g, 44.5% | C(#N)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N4O
